US08383638B2
Methyl 5-amino-8-bromoisoquinoline-6-carboxylate was prepared by the procedure described for the synthesis of methyl 1-amino-4-bromo-2-naphthoate in Example 1, substituting 6-methyl-5-nitroisoquinoline for 2-methyl-1-nitronaphthalene and substituting [(E-2-phenylethenyl]boronic acid for potassium vinyltrifluoroborate.

reactant | methyl 1-amino-4-bromo-2-naphthoate | NC1=C(C=C(C2=CC=CC=C12)Br)C(=O)OC | C12H10BrNO2
reactant | 2-methyl-1-nitronaphthalene | CC1=C(C2=CC=CC=C2C=C1)[N+](=O)[O-] | C11H9NO2
reactant | (E-2-phenylethenyl]boronic acid | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
reactant | potassium vinyltrifluoroborate | C(=C)[B-](F)(F)F.[K+]
product | Methyl 5-amino-8-bromoisoquinoline-6-carboxylate | NC1=C2C=CN=CC2=C(C=C1C(=O)OC)Br | C11H9BrN2O2
